US07632838B2
2-[4-(2-naphthylsulfonyl)piperidin-1-yl]-5-(trifluoromethyl)pyridine
Using the procedure from Example 7A, Step 7E, 4-(2-naphthylsulfonyl)piperidine (130 mg, 0.51 mmol) was reacted with 2-chloro-5-(trifluoromethyl)pyridine (181 mg, 1.0 mmol) to afford the title compound (180 mg), a white solid, in 84% yield.

reactant | 4-(2-naphthylsulfonyl)piperidine | 0.51 mmol, 130 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)C1CCNCC1 | C15H17NO2S
reactant | 2-chloro-5-(trifluoromethyl)pyridine | 1.0 mmol, 181 mg | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
product | 2-[4-(2-naphthylsulfonyl)piperidin-1-yl]-5-(trifluoromethyl)pyridine | 180 mg, 84% yield | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)C1CCN(CC1)C1=NC=C(C=C1)C(F)(F)F | C21H19F3N2O2S
